US08445686B2
N-Indan-1-yl-2-methoxy-4-pyridin-4-yl-benzamide
To a solution of 2-methoxy-4-(pyridin-4-yl)benzoic acid (34 mg, 0.15 mmol), dissolved in DMA (0.5 ml) was added a solution of HATU (68 mg, 0.18 mmol) dissolved in DMA (0.5 ml). Then a solution of TEA (55 mg, 0.5 mmol), dissolved in DMA (0.4 ml) was added, followed by a solution of 2,3-dihydro-1H-inden-1-amine (27 mg, 0.2 mmol) dissolved in DMA (0.7 ml). The resulting mixture was shaken for 4 hours at room temperature. The reaction was checked by LC/MS and concentrated to dryness. The residue was dissolved in 1:1 DMSO/methanol and purified by reverse phase HPLC (TFA method) to afford the title compound.

reactant | 2-methoxy-4-(pyridin-4-yl)benzoic acid | 0.15 mmol, 34 mg | COC1=C(C(=O)O)C=CC(=C1)C1=CC=NC=C1 | C13H11NO3
reactant | HATU | 0.18 mmol, 68 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2,3-dihydro-1H-inden-1-amine | 0.2 mmol, 27 mg | C1(CCC2=CC=CC=C12)N | C9H11N
solvent | DMA | 0.5 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 0.5 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 0.4 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 0.7 ml | CC(=O)N(C)C | C4H9NO
product | N-Indan-1-yl-2-methoxy-4-pyridin-4-yl-benzamide | C1(CCC2=CC=CC=C12)NC(C1=C(C=C(C=C1)C1=CC=NC=C1)OC)=O | C22H20N2O2
